US03978127
B. N-[2-Methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl]-phthalimide
A mixture of 8.02 g. (0.022 mole) of 2-methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl bromide, 4.10 g. (0.022 mole) of potassium phthalimide, and 40 ml. of dimethylformamide is stirred 30 minutes at room temperature, 4 hours at 95°C., and 3 hours at reflux. The cooled mixture is diluted with 100 ml. of chloroform and washed with 150 ml. of water. After re-extraction of the aqueous layer with chloroform, the combined organic extracts are washed with 0.1 N. sodium hydroxide, water, dried over anhydrous magnesium sulfate, and evaporated to dryness in vacuo. Recrystallization of the residual solid from isopropyl alchol affords the white crystalline product, m.p. 135°-137°C.

reactant | 2-methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl bromide | 0.022 mole | CC1=C(CBr)C=CC=C1C(C(C1=CC=CC=C1)(F)F)(F)F | C16H13BrF4
reactant | potassium phthalimide | 0.022 mole | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[2-Methyl-3-(α,α,β,β-tetrafluorophenethyl)-benzyl]-phthalimide | CC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1C(C(C1=CC=CC=C1)(F)F)(F)F | C24H17F4NO2
